datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1c[n+:21]([H:20])c2c(cc(C)c3cccnc32)c1C.O=C(C1CCCCn2nnnc21)[O-:10]>>Cc1c[n:21]c2c(cc(C)c3cccnc32)c1C.O=C(C1CCCCn2nnnc21)[O:10][H:20] 10=20;20,21=21",
"Cc1ccccc1C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>Cc1ccccc1C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[C@@H]1C[C@H](OC(=O)c2ccccc2)CC(C)(C)[NH:10]1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C[C@@H]1C[C@H](OC(=O)c2ccccc2)CC(C)(C)[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[N:10](C)c1cccc(Cl)c1.c1coc(CNc2nc[n+:21]([H:20])c3[nH]ncc23)c1>>C[N+:10](C)(c1cccc(Cl)c1)[H:20].c1coc(CNc2nc[n:21]c3[nH]ncc23)c1 10=20;20,21=21",
"O=Cc1ncnc2nc[n:21]([H:20])c12.c1ccc(-c2nn[n-:10]n2)cc1>>O=Cc1ncnc2nc[n-:21]c12.c1ccc(-c2nn[n:10]([H:20])n2)cc1 10=20;20,21=21",
"COC(=O)Cc1ccccc1[NH2:10].[NH3+]c1ccc(-c2oc(-c3ccc(Cl)cc3)c[n+:21]2[H:20])cc1>>COC(=O)Cc1ccccc1[NH2+:10][H:20].[NH3+]c1ccc(-c2oc(-c3ccc(Cl)cc3)c[n:21]2)cc1 10=20;20,21=21",
"COc1ccc(S(=O)(=O)[N-:10]Cc2ccccc2)cc1.OCc1ccc([O:21][H:20])cc1>>COc1ccc(S(=O)(=O)[N:10](Cc2ccccc2)[H:20])cc1.OCc1ccc([O-:21])cc1 10=20;20,21=21",
"Cc1ccc([NH2:10])cc1Br.c1ccc2c(c1)CCCC2[NH2+:21][H:20]>>Cc1ccc([NH2+:10][H:20])cc1Br.c1ccc2c(c1)CCCC2[NH2:21] 10=20;20,21=21",
"O=C([O-])CCCCCCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])CCCCCCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C([O-])C[NH+](CC[N-:10]S(=O)(=O)c1ccc(CCBr)cc1)CC(=O)[O-].c1cncc(CC[NH2+:21][H:20])c1>>O=C([O-])C[NH+](CC[N:10](S(=O)(=O)c1ccc(CCBr)cc1)[H:20])CC(=O)[O-].c1cncc(CC[NH2:21])c1 10=20;20,21=21",
"COc1cnccc1C(O)[O-:10].O=C(c1ccc([N+](=O)[O-])cc1Cl)[O:21][H:20]>>COc1cnccc1C(O)[O:10][H:20].O=C(c1ccc([N+](=O)[O-])cc1Cl)[O-:21] 10=20;20,21=21",
"CC(C)CC[NH:10]CCC(C)C.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)CC[NH+:10](CCC(C)C)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC(C)(O)[O-:10].C[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CC(C)(O)[O:10][H:20].C[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"COc1ccc([O-:10])c(C)c1.c1cc([O:21][H:20])c2ccncc2c1>>COc1ccc([O:10][H:20])c(C)c1.c1cc([O-:21])c2ccncc2c1 10=20;20,21=21",
"CC(C)CS(=O)[O-:10].Oc1cc2ccccc2[n+:21]([H:20])c1>>CC(C)CS(=O)[O:10][H:20].Oc1cc2ccccc2[n:21]c1 10=20;20,21=21",
"C[Si](C)(C)CC[NH2:10].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C[Si](C)(C)CC[NH2+:10][H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CN1CCCCC[N+:21]1(C)[H:20].O=C(C(=NO)c1ccccc1)[NH-:10]>>CN1CCCCC[N:21]1C.O=C(C(=NO)c1ccccc1)[NH:10][H:20] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2ccccc2[n+:21]1[H:20].O=C(O)C[NH+](CC(=O)[O-:10])Cc1cc([N+](=O)[O-])ccc1O>>COc1cc(S(C)=O)ccc1-c1[nH]c2ccccc2[n:21]1.O=C(O)C[NH+](CC(=O)[O:10][H:20])Cc1cc([N+](=O)[O-])ccc1O 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.c1cc(C2CCC[NH2+]2)nc(C2CCC[NH:10]2)c1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.c1cc(C2CCC[NH2+]2)nc(C2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(C[NH2:10])Nc1ccc([N+](=O)[O-])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(C[NH2+:10][H:20])Nc1ccc([N+](=O)[O-])cc1 10=20;20,21=21",
"CC(C)Oc1ccc(C(=O)[O:21][H:20])cc1.NC(NCc1ccccc1)=[S:10]>>CC(C)Oc1ccc(C(=O)[O-:21])cc1.NC(NCc1ccccc1)=[S+:10][H:20] 10=20;20,21=21",
"Clc1cc(I)c([O:21][H:20])c2ncccc12.Ic1ccc(-c2nnn[n-:10]2)cc1>>Clc1cc(I)c([O-:21])c2ncccc12.Ic1ccc(-c2nnn[n:10]2[H:20])cc1 10=20;20,21=21",
"COc1cccc(C(=O)N[C@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1OC.O=C(C1CC1(Br)Br)[O:21][H:20]>>COc1cccc(C(=O)N[C@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1OC.O=C(C1CC1(Br)Br)[O-:21] 10=20;20,21=21",
"C1CCC2C[NH:10]CCC2C1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C1CCC2C[NH+:10]([H:20])CCC2C1.N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"Cc1cc([O:21][H:20])ccc1O.c1ccc2c(c1)CNCCC[NH:10]Cc1ccccc1OCCCO2>>Cc1cc([O-:21])ccc1O.c1ccc2c(c1)CNCCC[NH+:10]([H:20])Cc1ccccc1OCCCO2 10=20;20,21=21",
"COCc1ccccc1C(=O)[O-:10].COc1cc(S(C)=O)ccc1-c1[nH]c2ccccc2[n+:21]1[H:20]>>COCc1ccccc1C(=O)[O:10][H:20].COc1cc(S(C)=O)ccc1-c1[nH]c2ccccc2[n:21]1 10=20;20,21=21",
"CCCCc1c(-c2ccccc2)n[nH]c1[O:21][H:20].O=Cc1cc[n:10]c2ccccc12>>CCCCc1c(-c2ccccc2)n[nH]c1[O-:21].O=Cc1cc[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"Brc1c[n+](CC[NH2+:21][H:20])cc2ccccc12.Cc1cc[nH+]c([O-])[n:10]1>>Brc1c[n+](CC[NH2:21])cc2ccccc12.Cc1cc[nH+]c([O-])[n+:10]1[H:20] 10=20;20,21=21",
"Cc1cccc2ccc[n:10]c12.c1cc([NH2+:21][H:20])c2ccc[nH+]c2c1>>Cc1cccc2ccc[n+:10]([H:20])c12.c1cc([NH2:21])c2ccc[nH+]c2c1 10=20;20,21=21",
"CCCCCCCC[NH:10]Cc1ccc(C)cc1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=C([O-])C(Cc1c[nH]cn1)[NH2:10].c1cc([OH+:21][H:20])c2cn[nH]c2c1>>O=C([O-])C(Cc1c[nH]cn1)[NH2+:10][H:20].c1cc([OH:21])c2cn[nH]c2c1 10=20;20,21=21",
